US04156732
3-(4-Chloro-3-methylsulfamoylbenzoyl)-2-methylindole
is obtained as described in Example 10 a) from 2.68 g 4-chloro-3-methylsulfamoylbenzoyl chloride and 1.3 g 2-methylindole in the presence of 2.7 g aluminum chloride in dichloroethane. Colorless crystals, m.p. 246° C.

reactant | 4-chloro-3-methylsulfamoylbenzoyl chloride | 2.68 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(NC)(=O)=O | C8H7Cl2NO3S
reactant | 2-methylindole | 1.3 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | aluminum chloride | 2.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 3-(4-Chloro-3-methylsulfamoylbenzoyl)-2-methylindole | ClC1=C(C=C(C(=O)C2=C(NC3=CC=CC=C23)C)C=C1)S(NC)(=O)=O | C17H15ClN2O3S
